US08071776B2
(3-Amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid (imidazol-1-yl)-amide
To a solution of (3-amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid (0.350 g, 0.98 mmol) in DMF (4 ml) at room temperature is added 1,1′-carbonyldiimidazole (0.239 g, 1.48 mmol). The resulting solution is heated and stirred at 40° C. for 20 minutes. During this time, a cream colored precipitate is formed. The mixture is cooled to 10° C., and neat 2-aminopyridine (0.231 g, 2.46 mmol) is added. The mixture is stirred at room temperature for 30 minutes, then quenched by adding saturated sodium bicarbonate solution (10 ml). A thick, white precipitate is formed. The mixture is diluted with water (25 ml), stirred for 10 minutes, then filtered. The collected solid is dried in the vacuum oven for 16 hours. This affords the title compound as a white solid (0.228 g, 58%). Mass (m/z): 404.0 (M+−1).

reactant | (3-amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid | 0.98 mmol, 0.350 g | NC1=C(SC2=NC(=C(C(=C21)C)Cl)OCC(=O)O)C(NC2CC2)=O | C14H14ClN3O4S
reactant | 1,1′-carbonyldiimidazole | 1.48 mmol, 0.239 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-aminopyridine | 2.46 mmol, 0.231 g | NC1=NC=CC=C1 | C5H6N2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | 25 ml | O | H2O
product | (3-Amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid (imidazol-1-yl)-amide | 0.228 g, 58% | N1(C=NC=C1)NC(COC1=C(C(=C2C(=N1)SC(=C2N)C(NC2CC2)=O)C)Cl)=O | C17H17ClN6O3S
